Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
Exertional chest pressure and dyspnea with positive Persantine 
nuclear stress. 
 
Major Surgical or Invasive Procedure:
Cardiac catheterization wtih BMS to LCX

 
History of Present Illness:
___ yo M with PMH of mechanical AVR, AF and CABG x1 in ___ who 
has been experiencing DOE and substernal chest pressure since 
shortly after his surgery in ___. Pt initially thought this was 
___ deconditioning from the surgery/hospitalization and 
incisional pain and did not mention it to anyone. He had a 
visiting nurse and told her a few months ago who referred him to 
his cardiologist Dr. ___. He denies any cough, diaphoresis, 
claudication symptoms, or edema at baseline. Dr. ___ 
___ the ___ Imdur and sent him for a Persantine 
Cardiolyte stress on ___ which was negative for chest pain 
or EKG changes but nuclear images reveal a small inferoapical 
infarct, EF 40%. He was referred here for cardiac 
catheterization. His coumadin was stopped pre-cath without a 
Lovenox or heparin bridge. 
 
Past Medical History:
Ascending aortic aneurysm and coronary artery disease - s/p 
AVR(St. ___, Ascending Aortic Graft (#32 Gelweave) and CABG x 
1(SVG->RCA), Chronic atrial fibrillation, Hyperlipidemia, BPH, 
Glaucoma   
Esophageal Surgery x2 at ___
BPH
HTN

 
Social History:
___
Family History:
Denies history of premature CAD/aortic aneurysms
 
Physical Exam:
Gen: A/O, NAD
.
HEENT: supple, no LAD
.
CV: RRR, loud end-systolic click 
.
RESP: CTAB ant
.
ABD: soft, NT
.
EXTR: 1+ pitting edema feet and ankles. Right pulses tr/tr, left 
1+/1+
Hematoma resolved. no ecchymosis or tenderness. 
Left post popliteal area with ecchymosis popliteal area extended 
to lower thigh this am with small egg sized lump directly behind 
the knee, ecchymosis circled. No pain per pt, able to walk 
normally. 
.
NEURO: A/O x3
.
Functional Status: Independent ADL's

 
Pertinent Results:
___
06:40a   
     
Hct: 39.3  

___: 20.3  PTT: 93.4  INR: 1.___ S/P BMS to RCA: Tolerated procedure well. Had heparin drip 
after procedure as bridge to therapeutic INR ___ mechanical AVR 
and AF. Pt needs to take Plavix x ___ a 
prescription was given to pt on d/c. ___ groin has been stable 
x24h after mild hematoma development, likely ___ high PTT. 
Activity restrictions at d/c explained to pt include avoiding 
exercise and lifting more than 10 pounds for one week. 
.
#3 Anti-coagulation: AVR and AF. ___ heparin level was 
supratherapeutic for the first 24 hours and he developed a right 
groin hematoma that resolved by day of d/c and a popliteal 
hematoma and ecchymotic area that has slowly expanded. ___ hct 
has been stable throughout hospitalization with no sig blood 
loss. 
Spoke with Dr. ___ on day of discharge, OK to d/c home with 
INR 1.9.. Requested pt cont coumadin at 5mg on ___ and 
___. Pt will have ___ over the weekend to follow left knee 
bruising. 
.
#4 AF: poor rate control with activity, on BB. HR in ___'s 
at rest but few episodes of tachycardia with HR inc to 120's 
with activity. Pt currently on Metoprolol at 50mg BID. Would 
consider increasing this as outpt if BP allows.
. 
#5 Dispo: Pt will have ___ at d/c and will see Dr. ___ on ___ at 1:15pm. Dr. ___ was updated by phone. 

 
Medications on Admission:
Warfarin 5mg Po daily alternating with 2.5mg po daily. 
Digoxin 0.125mg po daily
Aspirin 81mg po daily
Metoprolol 50 mg po BID
Miralax 1 capful every other day
Omeprazole 20mg po BID
Levothyroxine 0.05mg po daily
Imdur 60 mg po daily
Cosopt eye drops one gtt each eye BID
Xalatan eye drops one gtt ___
 
Discharge Medications:
1. Warfarin 5 mg Tablet Sig: One (1) Tablet PO DAILY16 (Once 
Daily at 16): Tkae 5mg on ___ and ___, then decrease to 
2.5 mg on ___.  
2. Clopidogrel 75 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily): Take every day for one month.
Disp:*30 Tablet(s)* Refills:*1*
3. Nitroglycerin 0.3 mg Tablet, Sublingual Sig: One (1) Tablet, 
Sublingual Sublingual Q5MIN () as needed for chest pain: Take 
one tablet every 5 minutes for chest pain, if you still have 
chest pain after 3 tablets, call ___.
Disp:*30 Tablet, Sublingual(s)* Refills:*0*
4. Metoprolol Tartrate 50 mg Tablet Sig: One (1) Tablet PO BID 
(2 times a day).  
5. Simvastatin 40 mg Tablet Sig: One (1) Tablet PO HS (at 
bedtime).  
6. Digoxin 125 mcg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

7. Omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO twice a day.  
8. Levothyroxine 50 mcg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
9. Isosorbide Mononitrate 60 mg Tablet Sustained Release 24 hr 
Sig: One (1) Tablet Sustained Release 24 hr PO DAILY (Daily).  
10. Latanoprost 0.005 % Drops Sig: One (1) Drop Ophthalmic HS 
(at bedtime).  
11. Dorzolamide-Timolol ___ % Drops Sig: One (1) Drop 
Ophthalmic BID (2 times a day).  
12. Aspirin 81 mg Tablet, Delayed Release (E.C.) Sig: One (1) 
Tablet, Delayed Release (E.C.) PO DAILY (Daily).  
13. Miralax 100 % Powder Sig: One (1)  PO every other day.  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Coronary artery disease
Hypertension

 
Discharge Condition:
CMI Progress Note
S/ Feels well. Able to amb in hall without difficulty. No pain 
in left knee are but somewhat tender to palp. 
Denies CP, SOB, N, cough, no groin pain or chest pain. 
VS: Temp: 97.7  HR: 90 RR: 16 BP: 127/75 O2 Sat: 98% RA
Gen: A/O, NAD
HEENT: supple, no LAD
CV: RRR, loud end-systolic click 
RESP: CTAB ant
ABD: soft, NT
EXTR: 1+ pitting edema feet and ankles. Right pulses tr/tr, left 
1+/1+
Hematoma resolved. no ecchymosis or tenderness. 
Left post popliteal area extended as above, ecchymosis circled. 
NEURO: A/O x3
Functional Status: Independent ADL's
Labs: hct stable at 39, INR 
#1 A/P BMS to RCA: 
-Plavix x ___
#3 Anti-coagulation: INR 1.9, OK to go home on coumadin per Dr. 
___. Left post pop area slowly extending
-cont coumadin at 5mg tonight 
#4 AF: poor rate control with activity, on BB
-no med changes per attending
___ at home to follow left knee area, pt will see PCP ___ ___
___ Team

 
Discharge Instructions:
You had a bare metal stent to a blockage in your left coronary 
artery. Please take plavix for one month every day, do not miss 
___ day. 
A visiting nurse ___ follow your left knee bruising and groin 
area at home. Please call Dr. ___ you notice more 
tenderness, pain, swelling or bruising at home. 
Please get your INR checked on ___ or ___. 
Take coumadin 5mg on ___ and ___, then decrease to 2.5mg 
on ___.
No lifting more than 10 pounds for one week
No pools or baths for one week, you ___ shower. 
 
Followup Instructions:
___